US07291734B2
3.3 g of 2-(3,5-bis-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-5-ium hydrochloride, 1.545 g of 2-fluoro-4-trifluoromethyl-benzamide and 3.3 g of K2CO3 are heated in DMSO at 150° for 5 hours. From the mixture obtained solvent is evaporated, the evaporation residue obtained is dissolved in EtAc/MeOH (9/1) and the mixture obtained is extracted with 50 ml of 1 M HCl and brine. Two phases are obtained and are separated and the organic layer obtained is concentrated and subjected to chromatography. 2-[2-(3,5-Bis-trifluoromethyl-benzenesulfonylamino)-6,7-dihydro-4H-thiazolo-[5,4-c]pyridin-5-yl]-4-trifluoromethyl-benzamide is obtained and is re-crystallized from EtAc.

reactant | 2-(3,5-bis-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-5-ium hydrochloride | 3.3 g | Cl.FC(C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)NC=1SC=2C[NH2+]CCC2N1)(F)F
reactant | 2-fluoro-4-trifluoromethyl-benzamide | 1.545 g | FC1=C(C(=O)N)C=CC(=C1)C(F)(F)F | C8H5F4NO
reactant | K2CO3 | 3.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | MeOH | CO | CH4O
product | 2-[2-(3,5-Bis-trifluoromethyl-benzenesulfonylamino)-6,7-dihydro-4H-thiazolo-[5,4-c]pyridin-5-yl]-4-trifluoromethyl-benzamide | FC(C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)NC=1SC=2CN(CCC2N1)C1=C(C(=O)N)C=CC(=C1)C(F)(F)F)(F)F | C22H15F9N4O3S2
